US05536728
Synthesis of 2-(2-oxopyrrolidin-1-yl)-N-(3-methyl-5,6,7,8-tetrahydrothieno[2,3-b]quinolin-4-yl)acetamide
Into a suspension of 1.26 g of sodium hydride (60% content) in 15 ml of N-methylpyrrolidone, was added 3.28 g of 4-amino-3-methyl -5,6,7,8-tetrahydrothieno[2,3-b]quinoline at room temperature. The mixture was heated to 50° C. and stirred for 40 minutes. Thereafter, 4.72 g of methyl 2-oxo-1-pyrrolidine acetate was added dropwise to the mixture at 50° C. over a period of 30 minutes. After the stirring at 50° C. for 20 minutes, the mixture was cooled to 15° C. and poured into 130 ml aqueous solution containing 13.5 g of ammonium chloride.

reactant | sodium hydride | 1.26 g | [H-].[Na+]
reactant | 4-amino-3-methyl -5,6,7,8-tetrahydrothieno[2,3-b]quinoline | 3.28 g | NC1=C2C(=NC=3CCCCC13)SC=C2C | C12H14N2S
reactant | methyl 2-oxo-1-pyrrolidine acetate | 4.72 g | O=C1N(CCC1)CC(=O)OC | C7H11NO3
reactant | ammonium chloride | 13.5 g | [Cl-].[NH4+]
solvent | N-methylpyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(2-oxopyrrolidin-1-yl)-N-(3-methyl-5,6,7,8-tetrahydrothieno[2,3-b]quinolin-4-yl)acetamide | O=C1N(CCC1)CC(=O)NC1=C2C(=NC=3CCCCC13)SC=C2C | C18H21N3O2S
